US07897767B2
A mixture of N-{4-[8-({[ethylideneamino]oxy}methyl)-5,6-dimethyl-7H-imidazo[4,5-c]tetraazolo[1,5-a]pyridin-7-yl]butyl}benzamide (2.0 g, 4.6 mmol), triphenylphosphine (2.4 g, 9.2 mmol), and 1,2-dichlorobenzene (50 mL) was heated at 125° C. for 2 days. The reaction mixture was allowed to cool to room temperature and was concentrated under reduced pressure. The residue was dissolved in methanol (40 mL) and 1 M aqueous hydrochloric acid (20 mL) was added. The mixture was heated at 50° C. for 6 hours. The mixture was allowed to stand at room temperature overnight and a white precipitate formed that was removed by filtration. The methanol was removed under reduced pressure and chloroform (20 mL) was added. The aqueous phase was adjusted to pH 12 with 1 M aqueous sodium hydroxide. The aqueous phase was extracted with chloroform (3×10 mL). The organic phases were combined, dried over sodium sulfate, filtered, and concentrated under reduced pressure. The material was purified by chromatography using a HORIZON HPFC system (silica gel, gradient elution with 10-35% CMA in chloroform). The appropriate fractions were combined and concentrated under reduced pressure to provide a solid that was triturated with acetonitrile, crystallized from acetonitrile, and purified again by chromatography as described above using 5-40% CMA in chloroform as the eluent to provide 32 mg of N-{4-[4-amino-2-({[ethylideneamino]oxy}methyl)-6,7-dimethyl-1H-imidazo[4,5-c]pyridin-1-yl]butyl}benzamide as a white powder and as a mixture (approximately 1:1 mixture) of oxime isomers, mp 192.0-194.0° C.

reactant | N-{4-[8-({[ethylideneamino]oxy}methyl)-5,6-dimethyl-7H-imidazo[4,5-c]tetraazolo[1,5-a]pyridin-7-yl]butyl}benzamide | 4.6 mmol, 2.0 g | C(C)=NOCC=1N(C2=C(C=3N(C(=C2C)C)N=NN3)N1)CCCCNC(C1=CC=CC=C1)=O | C22H26N8O2
reactant | triphenylphosphine | 9.2 mmol, 2.4 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | 1,2-dichlorobenzene | 50 mL | ClC1=C(C=CC=C1)Cl | C6H4Cl2
product | N-{4-[4-amino-2-({[ethylideneamino]oxy}methyl)-6,7-dimethyl-1H-imidazo[4,5-c]pyridin-1-yl]butyl}benzamide | 32 mg | NC1=NC(=C(C2=C1N=C(N2CCCCNC(C2=CC=CC=C2)=O)CON=CC)C)C | C22H28N6O2
